US07388061B2
(2) Synthesis of 2,3-diisopropyl-1,4-butandiol dibenzoate
7.7 g 2,3-diisopropyl-1,4-butandiol and 100 ml THF were mixed, and to the mixture was added 12.5 g benzoyl chloride and 14 g pyridine. The mixture was heated refluxing for 4 hours. Upon completing the reaction, water was added to dissolve solid substance. The organic phase was separated, washed, dried, and concentrated to give 13.9 g product, and the yield was 87%.

reactant | 2,3-diisopropyl-1,4-butandiol | 7.7 g | C(C)(C)C(CO)C(CO)C(C)C | C10H22O2
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | benzoyl chloride | 12.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 14 g | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2,3-diisopropyl-1,4-butandiol dibenzoate | 13.9 g, yield was 87% | C(C1=CC=CC=C1)(=O)OCC(C(COC(C1=CC=CC=C1)=O)C(C)C)C(C)C | C24H30O4
